US07625888B2
Step B: tert-Butyl[(1R)-1-(2,5-difluorobenzyl)-2-(5,6-dihydro[1,2,4]triazolo[4,3-d][1,4]benzoxazepin-3-yl)ethyl]carbamate
A mixture of 20 mg (0.0407 mmol) of tert-butyl[(1R)-2-(10-chloro-5,6-dihydro[1,2,4]triazolo[4,3-d][1,4]benzoxazepin-3-yl)-1-(2,5-difluorobenzyl)ethyl]carbamate, 0.007 mL (5.1 mg, 0.05 mmol) of triethylamine, 9.3 mg of 10% palladium on carbon, and 0.5 mL of methanol was shaken with hydrogen (45 psig) for 3 h. The catalyst was removed by filtration, and the filtrate was concentrated to yield the title compound. LC-MS 457 (M+1).

reactant | tert-butyl[(1R)-2-(10-chloro-5,6-dihydro[1,2,4]triazolo[4,3-d][1,4]benzoxazepin-3-yl)-1-(2,5-difluorobenzyl)ethyl]carbamate | 0.0407 mmol, 20 mg | C(C)(C)(C)OC(N[C@@H](CC1=NN=C2N1CCOC1=C2C=C(C=C1)Cl)CC1=C(C=CC(=C1)F)F)=O | C24H25ClF2N4O3
reactant | triethylamine | 0.05 mmol, 0.007 mL, 5.1 mg | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 9.3 mg | [Pd] | Pd
solvent | methanol | 0.5 mL | CO | CH4O
product | tert-Butyl[(1R)-1-(2,5-difluorobenzyl)-2-(5,6-dihydro[1,2,4]triazolo[4,3-d][1,4]benzoxazepin-3-yl)ethyl]carbamate | C(C)(C)(C)OC(N[C@@H](CC1=NN=C2N1CCOC1=C2C=CC=C1)CC1=C(C=CC(=C1)F)F)=O | C24H26F2N4O3
